US04458075
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-phenylpiperidine hydrochloride
To 30 ml of dry dimethylformamide was added 2.4 g of 4-phenylpiperidine, 3.4 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 8.0 g of sodium bicarbonate, and a few crystals of potassium iodide. After stirring at 100° C. for three hrs, the mixture was filtered and the filtrate was evaporated to an oil. The oil was stirred with 100 of ml water for five mins and then extracted into ether. The ether extract was washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent was evaporated to an oil. The oil was dissolved in ether and treated with ethereal hydrogen chloride, and the resultant salt was twice recrystallized from ethyl acetate/methanol/ether to give 3.0 g (53%) or product, mp 213°-214° C.

reactant | 4-phenylpiperidine | 2.4 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 3.4 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | sodium bicarbonate | 8.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-phenylpiperidine hydrochloride | Cl.FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)C2=CC=CC=C2)C=C1 | InChI=1S/C21H23FN2O.ClH/c22-18-8-9-19-20(23-25-21(19)15-18)7-4-12-24-13-10-17(11-14-24)16-5-2-1-3-6-16;/h1-3,5-6,8-9,15,17H,4,7,10-14H2;1H
